US07501268B2
An ADE2 fragment and a LYS2 fragment were also prepared under similar reaction conditions using A451 genomic DNA as a template and ADE-1 (5′ ATG GAT TCT AGA ACA GTT GGT 3′ (SEQ ID NO: 127)) and ADE-2 (5′ TTA CTT GTT TTC TAG ATA AGC 3′ (SEQ ID NO: 128)) or LYS-1 (5′ ATG ACT AAC GAA AAG GTC TGG 3′ (SEQ ID NO: 129)) and LYS-2 (5′ TTA AGC TGC TGC GGA GCT TCC 3′ (SEQ ID NO: 130)) as primer DNAs. The resultant HIS3 fragment and ADE2 fragment were introduced into pRS435GGF/YH1 successively to thereby obtain pRS435GGF/YH1-AH that exhibited non-histidine requirement and non-adenine requirement as phenotypes. On the other hand, the LYS2 fragment and URA3 fragment were introduced into YPH500 successively to thereby obtain YPH500-KU that exhibited non-lysine requirement and non-uracil requirement as phenotypes.

reactant | histidine | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
reactant | adenine | N1=CN=C2N=CNC2=C1N | C5H5N5
product | lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
